US07405210B2
Preparation 96: 5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [2-phenyl-1-(S)-(2-phenyl-[1,3]dioxolan-2-yl)ethyl]amide
To a solution of 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (Preparation 18, 88 mg, 0.403 mmol) and 2-phenyl-1-(S)-(2-phenyl-[ 1,3]dioxolan-2-yl)ethylamine (Preparation 95, 104 mg, 0.386 mmol) in DMF (5 mL) was added HOBt (65 mg, 0.424 mmol), DIPEA (0.155 mL, 0.890 mmol) and EDCI (90 mg, 0.469 mmol). After stirring at rt for 12 h the mixture was added to diluted brine (100 mL, water/brine:1/1). Extraction with ethyl acetate (4×25 mL), washing of the combined extracts with diluted hydrochloric acid (1M, 30 mL), diluted aqueous sodium hydroxide solution (1M, 30 ml) and brine (5 mL) followed by drying (MgSO4) gave after concentration a residue which was purified by flash chromatography on silica gel (eluent:hexane/ethyl acetate: 50/50). The title compound was obtained as a colourless oil. δH (CDCl3): 2.73 (1H, dd), 3.10 (1H, dd), 3.84–4.22 (4H, 4m), 5.01 (1H, ddd), 6.37 (1H, d), 6.72 (1H, s), 7.05–7.62 (1.1H, 3m), 8.64 (1H, s), 10.48 (1H, s); m/z (ES+)=448.24 [M+H]+; RT=3.64 min.

reactant | 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | 0.403 mmol, 88 mg | ClC=1C=C2C(=CN1)NC(=C2)C(=O)O | C8H5ClN2O2
reactant | 2-phenyl-1-(S)-(2-phenyl-[ 1,3]dioxolan-2-yl)ethylamine | 0.386 mmol, 104 mg | C1(=CC=CC=C1)C[C@@H](C1(OCCO1)C1=CC=CC=C1)N | C17H19NO2
reactant | HOBt | 0.424 mmol, 65 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.890 mmol, 0.155 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 0.469 mmol, 90 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | brine | 100 mL | [Cl-].[Na+].O
product | 5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [2-phenyl-1-(S)-(2-phenyl-[1,3]dioxolan-2-yl)ethyl]amide | C1(=CC=CC=C1)C[C@@H](C1(OCCO1)C1=CC=CC=C1)NC(=O)C1=CC=2C(=CN=C(C2)Cl)N1 | C25H22ClN3O3
